US05464616
C. Disodium 6β-[carboxylato(1,3-dithiolan-2-ylidene)acetamido]-2,2-dimethylpenam-3-carboxylate
Allyl 6β-[(allyloxycarbonyl)(1,3-dithiolan-2-ylidene)acetamido]-2,2-dimethylpenam-3-carboxylate (485 mg, 1 mmol) was dissolved in a mixture of dimethylformamide (2 mL), ethyl acetate (2 mL) and 0.5N sodium 2-ethylhexanoate/ethyl acetate solution (4 mL), and treated with triphenyl-phosphine (30 mg) and tetrakis(triphenylphosphine)palladium(0) (30 mg). The reaction mixture was stirred at room temperature for 1 h under a nitrogen atmosphere. The resulting precipitate was collected by filtration, washed successively with ethyl acetate and diethyl ether, and dried under vacuum to give the title compound (388 mg, 87%) as a light yellow powder: 1H NMR (D2O) δ 1.31 and 1.36 (each 3H, s, C2 -(CH3)2), 3.30-3.50 (4H, m, SCH2CH2S), 3.96 (1H, s, C3 -H), 5.98 (1H, d, J=5Hz, C6 -H).

reactant | Allyl 6β-[(allyloxycarbonyl)(1,3-dithiolan-2-ylidene)acetamido]-2,2-dimethylpenam-3-carboxylate | 1 mmol, 485 mg | C(C=C)OC(=O)C(C(=O)N[C@H]1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC=C)C1=O)=C1SCCS1 | C20H24N2O6S3
reactant | triphenyl-phosphine | 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium 2-ethylhexanoate ethyl acetate | 0.5N, 4 mL | C(C)C(C(=O)[O-])CCCC.[Na+].C(C)(=O)OCC
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Disodium 6β-[carboxylato(1,3-dithiolan-2-ylidene)acetamido]-2,2-dimethylpenam-3-carboxylate | 388 mg, 87% | C(=O)([O-])C(C(=O)N[C@H]1[C@@H]2N(C(C(S2)(C)C)C(=O)[O-])C1=O)=C1SCCS1.[Na+].[Na+] | InChI=1S/C14H16N2O6S3.2Na/c1-14(2)7(12(21)22)16-9(18)6(10(16)25-14)15-8(17)5(11(19)20)13-23-3-4-24-13;;/h6-7,10H,3-4H2,1-2H3,(H,15,17)(H,19,20)(H,21,22);;/q;2*+1/p-2/t6-,7?,10-;;/m1../s1
